US06683184B2
1-[(2-Methoxynaphth-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(2-methoxynaphth-3-yl)carbamate (375 mg, 1.28 mmol) and 1-(3,5-dimethylphenyl)piperazine (208 mg, 1.28 mmol) were dissolved in anhydrous tetrahydrofuran (25 ml) and thereto DBU (195 mg, 1.28 mmol) was added, and then stirred at room temperature for 2 hours, concentrated under the reduced pressure to remove the solvent and purified by column chromatography to obtain the titled compound.

reactant | Phenyl N-(2-methoxynaphth-3-yl)carbamate | 1.28 mmol, 375 mg | COC1=CC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C18H15NO3
reactant | 1-(3,5-dimethylphenyl)piperazine | 1.28 mmol, 208 mg | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
reactant | DBU | 1.28 mmol, 195 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[(2-Methoxynaphth-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 72.0% | COC1=CC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C24H27N3O2
